US06900223B2
Preparation of Ethyl 4-Chloro-6-(3,5-dichlorophenyl)-1-methyl-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate
A solution of ethyl 4-chloro-1-methyl-6-trifluoromethanesulfonyloxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (387 mg, 1 mmol) in THF is treated with tetrakis(triphenyl phosphine) palladium (115 mg, 10 mol %), stirred for 20 min at room temperature, treated sequentially with 3,5-dichlorobenzeneboronic acid (285 mg, 1.5 mmol), 2N K2CO3 (0.7 mL) and benzyl triethyl ammonium chloride (319 mg, 1.4 mmol), heated at reflux temperature for 4 h, cooled to room temperature and diluted with EtOAc. The phases are separated and the organic phase is washed sequentially with water and brine, dried over Na2SO4 and concentrated in vacuo. The resultant residue is chromatographed (silica gel, hexanes:EtOAc, 5:1) to afford the title product as a white solid, 127 mg (33% yield), identified by HNMR analysis.

reactant | ethyl 4-chloro-1-methyl-6-trifluoromethanesulfonyloxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1 mmol, 387 mg | ClC1=C2C(=NC(=C1C(=O)OCC)OS(=O)(=O)C(F)(F)F)N(N=C2)C | C11H9ClF3N3O5S
reactant | 3,5-dichlorobenzeneboronic acid | 1.5 mmol, 285 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 2N, 0.7 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | benzyl triethyl ammonium chloride | 1.4 mmol, 319 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenyl phosphine) palladium | 115 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 4-Chloro-6-(3,5-dichlorophenyl)-1-methyl-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate | 33% yield | ClC1=C2C(=NC(=C1C(=O)OCC)C1=CC(=CC(=C1)Cl)Cl)N(N=C2)C | C16H12Cl3N3O2
